US04983738
Step 1: Preparation of N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamide
The filtrate was transferred back to the 250 ml 3-neck flask and another 30.5g of ethyl oxamate was added. An additional 39g of 4-amino-2,2,6,6-tetramethylpiperidine were added over 7 minutes as the temperature slowly rose to 28° C. The reaction was stirred 3 hours and filtered. After air drying overnight, the filter cake weighed 50.0g and had a melting point of 198°-200° C.

reactant | ethyl oxamate | 30.5g | C(C(=O)N)(=O)OCC | C4H7NO3
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)oxamide | CC1(NC(CC(C1)NC(=O)C(=O)N)(C)C)C | C11H21N3O2
